US04824834
4-Hydroxy-8-(3-methoxy-4-phenylsulfinylphenyl)pyrazolo[1,5-a]-1,3,5-triazine
4-Hydroxy-8-(3-methoxy-4-phenylsulfinylphenyl)pyrazolo[1,5-a]-1,3,5-triazine dihydrate (15 g) is suspended in ethyl acetate (450 ml), and the mixture refluxed for 3 hours. After cooling, the precipitate is separated by filtration and is again suspended in ethyl acetate (400 ml), and the mixture is refluxed for 3 hours. After cooling, the precipitate is separated by filtration and dried under reduced pressure at 120° C. for 50 hours to give the title compound (13.7 g).

reactant | 4-Hydroxy-8-(3-methoxy-4-phenylsulfinylphenyl)pyrazolo[1,5-a]-1,3,5-triazine dihydrate | 15 g | O.O.OC1=NC=NC=2N1N=CC2C2=CC(=C(C=C2)S(=O)C2=CC=CC=C2)OC
solvent | ethyl acetate | 450 ml | C(C)(=O)OCC | C4H8O2
product | 4-Hydroxy-8-(3-methoxy-4-phenylsulfinylphenyl)pyrazolo[1,5-a]-1,3,5-triazine | 13.7 g | OC1=NC=NC=2N1N=CC2C2=CC(=C(C=C2)S(=O)C2=CC=CC=C2)OC | C18H14N4O3S
